US06420426B1
A solution of 1-fluoro-5-methoxy-2-methyl-4-nitro-benzene (5.5 g, 29.3 mmol) and 10% Pd-C (1.56 g) in ethanol (300 mL, 0.1 M) was hydrogenated at 1 atm. After stirring overnight, the solution was flushed through a pad of silica gel using 400 mL of ethanol as the eluant. The filtrate was concentrated under reduced pressure to afford 4-fluoro-2-methoxy-5-methyl-phenylamine (4.5 g, 99%) as a pale purple solid: mp 108-110° C.; Rf 0.35 (30% ethyl acetate in heptane); 1H NMR (DMSO-d6, 300 MHz) δ 6.62 (d, J=11.4 Hz, 1H)', 6.43 (d, J=7.8 Hz, 1H), 3.70 (s, 3H), 2.02 (d, J=1.8 Hz, 3H); ESI-LC/MS m/z calcd for C8H10FNO: 155.1; Found 156.0 (M+1)+. Anal. calcd for C8H10FNO: C, 61.92; H, 6.50. Found: C, 61.64; H, 6.53.

reactant | 1-fluoro-5-methoxy-2-methyl-4-nitro-benzene | 29.3 mmol, 5.5 g | FC1=C(C=C(C(=C1)OC)[N+](=O)[O-])C | C8H8FNO3
solvent | ethanol | 0.1 M, 300 mL | C(C)O | C2H6O
catalyst | Pd-C | 1.56 g | [Pd] | Pd
product | 4-fluoro-2-methoxy-5-methyl-phenylamine | 4.5 g, 99% | FC1=CC(=C(C=C1C)N)OC | C8H10FNO
